US06296788B1
1-Chloro-4-(dimorpholinomethyl)-benzene
70 g of p-chlorobenzaldehyde and 105 g of morpholine were heated to boiling in 260 g of methylcyclohexane in a water separator. Over the course of 45 minutes, 8.4 ml of water were removed azeotropically. The mixture was left to cool with slow stirring. At 58° C., the solution was seeded, and very fine crystals slowly precipitated out. The mixture was cooled in an ice bath to +5° C. After a post-stirring time of 1 hour, the solid which had precipitated out was filtered off with suction. The white product was washed with 2×50 ml of methylcyclohexane and dried overnight in a drying cabinet at 20° C. and 100 mbar. 129.2 g of product were obtained in the form of white crystals (87% of theory).

reactant | p-chlorobenzaldehyde | 70 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | morpholine | 105 g | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
solvent | methylcyclohexane | 260 g | CC1CCCCC1 | C7H14
product | 1-Chloro-4-(dimorpholinomethyl)-benzene | 129.2 g | ClC1=CC=C(C=C1)C(N1CCOCC1)N1CCOCC1 | C15H21ClN2O2
